US03956492
5-(2'-Chloro-phenyl)-1,3-dihydro-3-(dimethylamino-methylene)-7-iodo-1-methyl-2H-1,4-benzodiazepin-2-one by method A
A mixture consisting of 8 gm of 5-(2'-chloro-phenyl)-1,3-dihydro-7-iodo-1-methyl-2H-1,4-benzodiazepin-2-one and 16 ml of N,N-dimethyl-formamide-diethylacetal was heated for 90 minutes at 130°C. Thereafter, the reaction mixture was allowed to cool, and the crystalline substance which separated out was collected by vacuum filtration and washed with benzene and petroleum ether, yielding the compound named in the heading, which had a melting point of 182°-184°C.

reactant | 5-(2'-chloro-phenyl)-1,3-dihydro-7-iodo-1-methyl-2H-1,4-benzodiazepin-2-one | 8 gm | ClC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)I)C)=O | C16H12ClIN2O
reactant | N,N-dimethyl-formamide-diethylacetal | 16 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 5-(2'-Chloro-phenyl)-1,3-dihydro-3-(dimethylamino-methylene)-7-iodo-1-methyl-2H-1,4-benzodiazepin-2-one | ClC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)I)C)=O)=CN(C)C | C19H17ClIN3O
